US06166219
Five milliliters of thionyl chloride were added to 3.56 g of 1-(2-chlorobenzyl)-6-hydroxymethyl-2-methylbenzimidazole, and the mixture was stirred at room temperature for 20 minutes and then at 80° C. for 20 minutes. After excess thionyl chloride was distilled off under reduced pressure, the residue was dissolved in 10 ml of chloroform, and the solution was crystallized from hexane. The crystals were separated through filtration, washed with hexane, and dried to give 4.07 g of 1-(2-chlorobenzyl)-6-chloromethyl-2-methylbenzimidazole hydrochloride.

reactant | thionyl chloride | Five milliliters | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2-chlorobenzyl)-6-hydroxymethyl-2-methylbenzimidazole | 3.56 g | ClC1=C(CN2C(=NC3=C2C=C(C=C3)CO)C)C=CC=C1 | C16H15ClN2O
product | 1-(2-chlorobenzyl)-6-chloromethyl-2-methylbenzimidazole hydrochloride | 4.07 g | Cl.ClC1=C(CN2C(=NC3=C2C=C(C=C3)CCl)C)C=CC=C1 | InChI=1S/C16H14Cl2N2.ClH/c1-11-19-15-7-6-12(9-17)8-16(15)20(11)10-13-4-2-3-5-14(13)18;/h2-8H,9-10H2,1H3;1H
